US07135466B2
4-Chloro-6,7-dimethoxyquinazoline (5.00 g) and 4-nitro-2-methylphenol (6.85 g) were suspended in monochlorobenzene (25 ml) to prepare a suspension which was then heated under reflux overnight. The solvent was removed by distillation under the reduced pressure. The residue was washed with ethyl acetate, was filtered, and was dried. Next, the resultant crystal was suspended in an aqueous sodium hydroxide solution to prepare a suspension. The suspension was then filtered, followed by drying to give 6.89 g of 4-(2-methyl-4-nitrophenoxy)-6,7-dimethoxyquinoline. 4-(2-Methyl-4-nitrophenoxy)-6,7-dimethoxyquinoline (1.36 g) was dissolved in ethyl acetate/N,N-dimethylformamide/triethylamine (25 ml/25 ml/5 ml). Palladium hydroxide (0.4 g) was added to the solution, and the mixture was stirred in a hydrogen atmosphere at room temperature overnight. After filtration through Celite, the solvent was removed by distillation under the reduced pressure. A saturated aqueous sodium hydrogencarbonate solution was added to the residue, and the mixture was extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure to give the title compound (1.31 g, yield 91%).

reactant | 4-Chloro-6,7-dimethoxyquinazoline | 5.00 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | 4-nitro-2-methylphenol | 6.85 g | [N+](=O)([O-])C1=CC(=C(C=C1)O)C | C7H7NO3
reactant | monochlorobenzene | 25 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 4-(2-methyl-4-nitrophenoxy)-6,7-dimethoxyquinoline | 6.89 g | CC1=C(OC2=CC=NC3=CC(=C(C=C23)OC)OC)C=CC(=C1)[N+](=O)[O-] | C18H16N2O5
